Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
dyspnea
 
Major Surgical or Invasive Procedure:
___
endovascular aortic aneurysm repair

 
History of Present Illness:
___ with known AAA, last reported at 6cm (___), HTN with
recent admission for hypertensive crisis, CKD presenting with
dyspnea and low back-pain. Patient states symptoms began two
weeks ago, and worsened today, prompting evaluation at 
___.
Patient was found to be in hypertensive urgency with SBP to 
220s,
initial set of troponins per report were 0.36. The patient was
urgently transferred to ___ for possible cardiac
catheterization. 

The patient was placed on BiPAP here given mid oxygen 
saturations
despite high-flow oxygen. His CXR was consistent with pulmonary
edema, and systolic BPs persistent in 220 range. Given his
complaints of abdominal and low back pain, Vascular Surgery was
urgently consulted.

The patient otherwise notes dypsnea, and low back pain. He does
have some vague abdominal pain, more so in LLQ than
___ area.

He denies chest pain or upper back pain. He denies any lower
extremity weakness or paresthesias. The patient reports he was 
to
have his aneurysm repaired at ___ this upcoming week. 

 
Past Medical History:
PMH:anxiety, NIDDM, HTN with prior history of hypertensive
urgency, CKD with baseline Cr 2.4, microscopic hematuria, BPH

PSH: RIH repair

 
Social History:
___
Family History:
 No h/o MI, stroke. Significant for HTN and DM.  
 
Physical Exam:
admission exam
PE: VS:97.8 60 ___ bipap , repeat SBP 190s in both
arms
General: in no acute distress, awake, alert.
HEENT: sclera anicteric, mucus membranes moist, nares clear,
trachea at midline. BiPAP in place.
CV: regular rate, rhythm. No appreciable murmurs, rubs, gallops
Pulm: no crackles, wheezes or ronchi.
Abd: mildly tender to palpation in LLQ without rebound,
non-distended. Palpable, pulsatile and tender mass in 
midabdomen.
MSK: 
   fem  pop   dp  pt
R   all palpable
L   all palpable
Neuro: alert, oriented to person, place, time

discharge exam
General: in no acute distress, awake, alert.
HEENT: sclera anicteric, mucus membranes moist, nares clear,
trachea at midline. 
CV: regular rate, rhythm. No appreciable murmurs, rubs, gallops
Pulm: no crackles, wheezes or ronchi.
Abd: soft, nontender, no distention.
Groins: incisions clean and intact, no hematoma palpable
MSK: 
   fem  pop   dp  pt
R   all palpable
L   all palpable
Neuro: alert, oriented to person, place, time

 
Pertinent Results:
___ ___ M  ___  ___ 
 
Cardiovascular Report ECG Study Date of ___  8:27:42 ___ 
 
  
Sinus rhythm with ventricular premature contractions. Left axis 
deviation. 
Right bundle-branch block. Compared to the previous tracing of 
___ 
ventricular premature contractions are now present. 
TRACING #1 
  
 
Read by: ___. 
 
  Intervals Axes 
Rate PR QRS QT/QTc P QRS T 
73 ___ 39 -98 63 
Radiology Report CHEST (PORTABLE AP) Study Date of ___ 
8:51 ___ 
 
  
___   ___ 8:51 ___ 
CHEST (PORTABLE AP)   Clip # ___   
Reason: eval pulm edema  
 

 
UNDERLYING MEDICAL CONDITION: 
   History: ___ with chf with sob  
REASON FOR THIS EXAMINATION: 
   eval pulm edema  
CONTRAINDICATIONS FOR IV CONTRAST: 
   None. 

 
 
Final Report 
EXAM:  Chest, single AP upright portable view. 
  
CLINICAL INFORMATION:  CHF with shortness of breath. 
  
COMPARISON:  ___. 
  
FINDINGS:  An AP upright portable view of the chest was 
obtained.  The cardiac 
and mediastinal silhouettes are stable with the cardiac 
silhouette enlarged.  
There is increase in perihilar opacities bilaterally suggesting 
pulmonary 
edema.  Superimposed infectious process is not excluded.  No 
large pleural 
effusion is seen.  There is no evidence of pneumothorax. 
  
IMPRESSION:  Enlarged cardiac silhouette with bilateral 
opacities suggesting 
pulmonary edema.  No large pleural effusion is seen. 
 
-------------------
___ ___  ___  ___BD & PELVIS W/O CONTRAST Study Date of 
___ 9:39 ___ 
 
  
___ EU   ___ 9:___BD & PELVIS W/O CONTRAST   Clip # ___   
Reason: cr of 2. would like eval w/o contrast to eval size of 
aneur 
 

 
UNDERLYING MEDICAL CONDITION: 
   NO_PO contrast; History: ___ with =with known aaa, with low 
back pain/abd. pain  
   and htn urgency 
REASON FOR THIS EXAMINATION: 
   cr of 2. would like eval w/o contrast to eval size of 
aneurysm, free fluid.  
CONTRAINDICATIONS FOR IV CONTRAST: 
   None. 

 
 
Wet Read: CCfe SUN ___ 10:29 ___ 
1. Ruptured bilobed infrarenal abdominal aortic aneurysm 
measuring up to 6.1 
cm with a moderate amount of blood within the retroperitoneum on 
the left.  
  
2. Moderate bilateral pleural effusions measuring simple fluid 
density and 
pulmonary edema.  
  
3. Possible bilateral adrenal adenomas. Recommend correlation 
with prior 
imaging.  
  
4. Multiple renal cysts bilaterally 1 of which with a thin rim 
of 
calcification. Recommend correlation with prior imaging to 
ensure stability.  
  
  

 
Final Report 
HISTORY:  Known AAA with low back/abdominal pain and 
hypertension is urgency.  
  
  
TECHNIQUE:  Axial helical MDCT images were obtained through the 
abdomen and 
pelvis without administration of contrast.  Multiplanar 
reformatted images in 
coronal and sagittal axes were generated. 
  
DLP:  496 mGy-cm  
  
COMPARISON:  None available  
  
FINDINGS: 
  
There are moderate bilateral pleural effusions measuring simple 
fluid density 
slightly greater right than left.  There is thickening of the 
interlobular 
septa consistent pulmonary edema.  No pericardial effusion is 
seen.   
  
CT abdomen:  Evaluation of the solid organs and soft tissues is 
limited by 
lack of intravenous contrast.  The liver is normal in size 
without focal 
lesions or intrahepatic biliary dilatation.  Gallstones are 
noted in the 
gallbladder with no evidence of cholecystitis.  The pancreas and 
spleen are 
unremarkable.  The adrenal glands appear thickened without 
discrete 
nodularity.  There are multiple bilateral cysts within the 
kidneys 1 of which 
on the right upper pole has a thin rim of calcification (02:27). 
  
  
There is aneurysmal dilatation of the infrarenal aorta a bilobed 
appearance 
with the superior lobe beginning just inferior to the renal 
arteries and 
measuring up to 5.5 cm and an inferior lobe measuring up to 6.1 
cm. The 
inferior right lobe demonstrates a crescent of high-density 
along the left 
aspect with a break in the surrounding atherosclerotic 
calcifications and high 
density fluid consistent with blood tracking in the 
retroperitoneal space on 
the left, consistent with rupture. 
  
The small and large bowel are normal in caliber without evidence 
of 
obstruction.  The appendix is visualized and appears within 
There is no 
mesenteric or retroperitoneal lymph node enlargement by CT size 
criteria.  No 
free air or abdominal wall hernia is noted. 
  
CT pelvis:  The urinary bladder is unremarkable.  High density 
material in the 
right inguinal region is likely related to prior hernia repair. 
There is no 
pelvic free fluid.  There is no inguinal or pelvic wall 
lymphadenopathy. 
  
Osseous structures:  No lytic or sclerotic lesions suspicious 
for malignancy 
is present. 
  
IMPRESSION: 
  
1.  Ruptured bilobed infrarenal abdominal aortic aneurysm 
measuring up to 6.1 
cm with a large amount of blood within the retroperitoneum on 
the left.   
  
2.  Moderate bilateral pleural effusions measuring simple fluid 
density and 
pulmonary edema.   
 
___ ___ M  ___  ___ 
 
Radiology Report CTA ABD & PELVIS Study Date of ___ ___ EU   ___ 10:47 ___ 
CTA CHEST W&W/O C&RECONS, NON-; CTA ABD & PELVIS   Clip # 
___   
Reason: ___ with known AAA, abdominal and back pain c/f rupture. 
Ass 
Contrast: VISAPAQUE Amt: 130 
 

 
UNDERLYING MEDICAL CONDITION: 
   ___ with known AAA, abdominal and back pain c/f rupture.  
REASON FOR THIS EXAMINATION: 
   ___ with known AAA, abdominal and back pain c/f rupture. 
Assess for  
   rupture/leak. CTA torso please. 
CONTRAINDICATIONS FOR IV CONTRAST: 
   None. 

 
 
Wet Read: ___ MON ___ 12:20 AM 
Chest CT: moderate bilateral pleural effusions measuring simple 
fluid density. 
Pulmonary edema and with an area of increased opacification in 
the right upper 
lobe which could represent asymmetric pulmonary edema although 
underlying 
infectious process is possible. Cardiomegaly. Extensive 
noncalcified 
atherosclerotic plaque in the aortic arch and descending 
thoracic aorta.  
Normal caliber thoracic aorta.  
  
CT abdomen: Bilobed infrarenal abdominal aortic aneurysm 
measuring up to 6.2 
cm which is partially thrombosed with a crescent of high density 
in the 
inferior lobe of the aneurysm and surrounding high-density fluid 
compatible 
with blood. No evidence of active extravasation at this time. 
The aneurysm 
extends from approximately 9 mm below the right renal artery and 
at the level 
of an accessory left renal artery inferiorly to the level of the 
bifurcation.  
Mild dilatation of the bilateral common iliac arteries to 2.1 
cm. There is 
occlusion of the left internal iliac artery.  
  

 
Final Report 
HISTORY:  Known AAA with abdominal and back pain concerning for 
rupture.   
  
TECHNIQUE:  Axial helical MDCT images were obtained through the 
chest, abdomen 
and pelvis after the administration of the CPK intravenous 
contrast scanning 
in the arterial phase.  Multiplanar reformatted images in 
coronal and sagittal 
axes were generated. 
  
DLP: 863 mGy-cm  
  
COMPARISON:  Nonenhanced CT abdomen and pelvis dated ___ at 21:29  
  
FINDINGS: 
  
CT chest:  There is a 7 mm nodule in the right lobe of the 
thyroid.  The 
airways are patent to the subsegmental level.  A pretracheal 
lymph node 
measures up to 8 mm in short axis, not meeting CT size criteria 
for 
enlargement.  No axillary or hilar lymphadenopathy.  The heart 
is enlarged.The 
pulmonary artery is dilated consistent with pulmonary artery 
hypertension.  No 
pericardial effusion.  There are bilateral moderate pleural 
effusions 
measuring simple fluid density.  Thickening of the interlobular 
septa and 
ground-glass opacities are noted consistent with pulmonary 
edema.  A more 
confluent opacity in the right upper lobe could represent 
asymmetric pulmonary 
edema; although, underlying infection is possible.   
  
CT abdomen:  The liver enhances homogeneously without focal 
lesions or 
intrahepatic biliary dilatation.  There is cholelithiasis 
without evidence of 
cholecystitis.  The pancreas and spleen are unremarkable.  There 
is thickening 
of the bilateral adrenal glands without distinct nodularity.  
There are 
multiple bilateral simple renal cysts, the largest of which in 
the left kidney 
measures 6.6 cm and the largest in the right kidney measures 5.5 
cm. One cyst 
in the right upper pole has a thin rim of calcification.   
  
The small and large bowel are are of normal caliber without 
evidence of 
obstruction. There is a duodenal diverticulum.  There is 
diverticulosis 
without evidence of diverticulitis.    There is no mesenteric or 

retroperitoneal lymph node enlargement by CT size criteria.  No 
free air or 
abdominal wall hernia is noted. 
  
CT pelvis:   High-density material in the right inguinal region 
is consistent 
with prior hernia repair.  The bladder is decompressed with a 
Foley.  There is 
no pelvic free fluid.  There is no inguinal or pelvic wall 
lymphadenopathy. 
  
CTA: There is ectasia of the right subclavian artery. Extensive 
noncalcified 
atherosclerotic plaque in the aortic arch and descending 
thoracic aorta. 
Normal caliber thoracic aorta. Bilobed infrarenal abdominal 
aortic aneurysm 
measuring up to 6.2 cm which is partially thrombosed with a 
crescent of high 
density in the inferior lobe of the aneurysm and surrounding 
high-density 
fluid compatible with blood. No evidence of active extravasation 
at this time. 
The aneurysm extends from approximately 9 mm below the right 
renal artery and 
at the level of an accessory left renal artery inferiorly to the 
level of the 
bifurcation. Mild dilatation of the bilateral common iliac 
arteries to 2.1 cm. 
There is occlusion of the left internal iliac artery with a 
thrombosed left 
internal iliac aneurysm.  
  
Osseous structures:  No lytic or sclerotic lesions suspicious 
for malignancy 
is present. 
  
IMPRESSION: 
  
1.  Bilobed infrarenal aortic aneurysm as described above with 
adjacent 
retroperitoneal blood consistent with previous rupture; 
although, no evidence 
of active extravasation.  
  
2.  Moderate bilateral simple pleural effusions and pulmonary 
edema  
  
3.  More confluent opacity in the right upper lobe could 
represent asymmetric 
pulmonary edema; although, underlying infectious process is 
possible.  
  
4. Pulmonary hypertension. 
  
5. Extensive noncalcified plaque in the aorta. 
  
6.  7 mm right thyroid nodule.  Could be further evaluated with 
nonemergent 
thyroid ultrasound as clinically indicated.   
 
___ ___  ___  ___ 
 
Cardiovascular Report ECG Study Date of ___  3:27:56 AM 
 
  
Sinus bradycardia with premature atrial contractions. Right 
bundle-branch 
block. Left axis deviation. Non-specific lateral and inferior T 
wave changes. 
Cannot rule out myocardial ischemia. Clinical correlation is 
suggested.  
TRACING #2 
  
 
Read by: ___. 
 
  Intervals Axes 
Rate PR QRS QT/QTc P QRS T 
50 ___ 15 -56 -48 
 
___ ___  ___  ___ 
 
Radiology Report CHEST PORT. LINE PLACEMENT Study Date of 
___ 4:00 AM 
 
  
___. ___ ___ 4:00 AM 
CHEST PORT. LINE PLACEMENT   Clip # ___   
Reason: ptx  
 

 
UNDERLYING MEDICAL CONDITION: 
   ___ year old man with new R IJ  
REASON FOR THIS EXAMINATION: 
   ptx  

 
 
Final Report 
EXAMINATION:  CHEST PORT. LINE PLACEMENT 
  
INDICATION:  ___ year old man with new R IJ // ptx Contact name: 
___, 
___: ___ 
  
COMPARISON:  Chest radiographs ___. 
  
IMPRESSION:  
  
Tip of the new right IJ catheter sheath ends at or just above 
the origin of 
the SVC.  There is no pneumothorax, mediastinal widening, or 
appreciable 
pleural effusion. Severe cardiomegaly is stable. Mild to marked 
moderate 
pulmonary edema which developed between ___ and ___ 
has improved. 
Tip of the new ETT is at least 7.5 cm from the carina and should 
be advanced 3 
cm. 
 

___ 02:21AM BLOOD WBC-7.5 RBC-3.38* Hgb-10.8* Hct-31.8* 
MCV-94 MCH-32.0 MCHC-34.1 RDW-14.7 Plt ___
___ 01:05PM BLOOD Hct-35.5* Plt ___
___ 03:20AM BLOOD WBC-6.5 RBC-3.53*# Hgb-11.2*# Hct-33.4*# 
MCV-95 MCH-31.8 MCHC-33.6 RDW-14.3 Plt ___
___ 08:55PM BLOOD WBC-6.5 RBC-4.78# Hgb-14.6# Hct-46.2# 
MCV-97 MCH-30.5 MCHC-31.6 RDW-14.6 Plt ___
___ 02:21AM BLOOD ___ PTT-34.4 ___
___ 03:20AM BLOOD ___ PTT-34.6 ___
___ 08:55PM BLOOD ___ PTT-33.0 ___
___ 07:30AM BLOOD Glucose-103* UreaN-27* Creat-2.1* Na-139 
K-4.1 Cl-102 HCO3-25 AnGap-16
___ 06:24AM BLOOD Glucose-98 UreaN-28* Creat-2.3* Na-140 
K-3.7 Cl-104 HCO3-26 AnGap-14
___ 02:21AM BLOOD Glucose-125* UreaN-32* Creat-2.6* Na-139 
K-3.6 Cl-104 HCO3-25 AnGap-14
___ 01:05PM BLOOD UreaN-31* Creat-2.3* Na-141 K-4.6 Cl-106 
HCO3-23 AnGap-17
___ 03:20AM BLOOD Glucose-140* UreaN-28* Creat-1.9* Na-141 
K-4.1 Cl-108 HCO3-27 AnGap-10
___ 08:55PM BLOOD Glucose-152* UreaN-28* Creat-2.0* Na-143 
K-4.4 Cl-105 HCO3-26 AnGap-16
___ 03:20AM BLOOD CK(CPK)-59
___ 01:05PM BLOOD cTropnT-0.06*
___ 03:20AM BLOOD CK-MB-3 cTropnT-0.05* ___
___ 08:55PM BLOOD cTropnT-0.03*
___ 08:55PM BLOOD proBNP-8690*
___ 07:30AM BLOOD Calcium-9.1 Phos-3.3 Mg-2.3
___ 06:24AM BLOOD Calcium-8.5 Phos-3.5 Mg-2.2
___ 02:21AM BLOOD Mg-2.7*
___ 01:05PM BLOOD Mg-2.0
___ 03:20AM BLOOD Calcium-8.8 Phos-4.2 Mg-1.9
___ 08:55PM BLOOD Calcium-9.6 Phos-3.9 Mg-2.3
___ 01:46AM BLOOD Glucose-143* Lactate-1.3 Na-139 K-3.8 
Cl-108
___ 03:35AM BLOOD Glucose-130* Lactate-1.3 K-4.0
___ 05:26AM BLOOD Glucose-120* Lactate-1.1 K-4.3
___ 10:11AM BLOOD K-4.7
___ 01:23PM BLOOD Lactate-0.9
 
Brief Hospital Course:
The patient was admitted to the Vascular Surgery Service for 
evaluation and treatment.  On ___, the patient emergently 
was taken to the operating room and underwent endovascular 
abdominal aortic aneurysm repair (reader referred to the 
Operative Note for details). The patient was then brought to the 
ICU intubated, sedated, on IV fluids and antibiotics, with a 
foley catheter.  The patient was hemodynamically stable.

Neuro: While intubated, the patient was sedated with propofol. 
Following extubation, the patient received IV dilaudid with good 
effect and adequate pain control.  When tolerating oral intake, 
the patient was transitioned to oral pain medications.

CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored. The patient 
was initially hypertensive out of the OR and required 
nitroglycerin drip. Oral agents were started POD2 in the ICU, 
including home carvedilol and oral hydralazine and amlodipine. 
The patient was given PRN doses of IV hydralazine. Following 
transfer to the vascular stepdown unit, the patient did not 
require further IV hydralazine. Lisinopril was held from 
admission given his elevated Cr level. It was restarted as Cr 
trended down on discharge. Amlodipine was discontinued prior to 
discharge when lisinopril was started. The patient will require 
close PCP followup for titration of antihypertensives. ___ will 
be arranged for blood pressure checks. While in the ICU, 
cardiology was consulted for co-management of the patient's CHF. 
There was a slight leak in troponin that was felt to be due to 
demand ischemia and no further troponins were checked after ICU 
stay. In addition, they recommended diuresis when able.

Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirrometry were 
encouraged throughout hospitalization. Albuterol and ipratropium 
nebs were given as needed.

GI/GU/FEN: Post-operatively, the patient was made NPO with IV 
fluids. OG tube was in place while intubated. Following 
extubation on POD#1, diet was advanced when appropriate, which 
was well tolerated.  Patient's intake and output were closely 
monitored, and IV fluid was adjusted when necessary.  
Electrolytes were routinely followed, and repleted when 
necessary. Creatinine was elevated at admission from baseline 
levels. It was trended postoperatively. The patient was volume 
overloaded postoperatively. IV lasix was administered POD#1 with 
resulting diuresis. However, Cr continued to rise so no further 
lasix was administered. Foley catheter was removed POD#3 and the 
patient subsequently voided without issue. 

ID: The patient's white blood count and fever curves were 
closely watched for signs of infection. Perioperative 
antibiotics were administered.

Endocrine: The patient's blood sugar was monitored throughout 
his stay; insulin dosing was adjusted accordingly. He was 
restarted on oral glycemic agents on discharge.

Hematology: The patient's complete blood count was examined 
routinely; no transfusions were required.

Prophylaxis: The patient received subcutaneous heparin and 
venodyne boots were used during this stay; was encouraged to get 
up and ambulate as early as possible.

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs.  The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

Patient will be seen in followup in 4 weeks time with Dr 
___. At that time, a CTA will be arranged to assess the 
location and function of the stent graft. Patient will also be 
seen by PCP Dr ___ on ___ in followup and for ongoing 
hypertension management.
 
Medications on Admission:
1. Carvedilol 25 mg PO BID 
2. Doxazosin 4 mg PO HS 
3. HydrALAzine 50 mg PO BID 
4. Lisinopril 10 mg PO DAILY 
5. Pregabalin 75 mg PO BID 
6. GlipiZIDE XL 2.5 mg PO DAILY 
7. Pravastatin 40 mg PO DAILY 
8. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. Doxazosin 4 mg PO HS 
2. Pregabalin 75 mg PO BID 
3. Carvedilol 25 mg PO BID 
4. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*10 Capsule Refills:*0
5. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*15 Tablet Refills:*0
6. Pravastatin 40 mg PO DAILY 
7. Senna 8.6 mg PO BID:PRN constipation 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth twice a day Disp 
#*10 Tablet Refills:*0
8. GlipiZIDE XL 2.5 mg PO DAILY 
9. Aspirin EC 81 mg PO DAILY 
10. HydrALAzine 75 mg PO Q8H 
RX *hydralazine 50 mg 1.5 tablet(s) by mouth every eight (8) 
hours Disp #*135 Tablet Refills:*0
11. Lisinopril 10 mg PO DAILY 
12. Acetaminophen 650 mg PO Q6H:PRN pain 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___:
Leaking juxtarenal abdominal aortic aneurysm

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.

MEDICATIONS:

     Take Aspirin once daily 

     Do not stop Aspirin unless your Vascular Surgeon instructs 
you to do so. 

     Continue all other medications you were taking before 
surgery, unless otherwise directed

     You make take Tylenol or prescribed pain medications for 
any post procedure pain or discomfort

 

WHAT TO EXPECT AT HOME:

It is normal to have slight swelling of the legs:

     Elevate your leg above the level of your heart (use ___ 
pillows or a recliner) every ___ hours throughout the day and at 
night

     Avoid prolonged periods of standing or sitting without 
your legs elevated

It is normal to feel tired and have a decreased appetite, your 
appetite will return with time 

     Drink plenty of fluids and eat small frequent meals

     It is important to eat nutritious food options (high 
fiber, lean meats, vegetables/fruits, low fat, low cholesterol) 
to maintain your strength and assist in wound healing

     To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

 

ACTIVITIES:

     When you go home, you ___ walk and go up and down stairs

     You ___ shower (let the soapy water run over groin 
incision, rinse and pat dry)

     Your incision ___ be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing or 
band aid over the area that is draining, as needed

     No heavy lifting, pushing or pulling (greater than 5 lbs) 
for 1 week (to allow groin puncture to heal)

     After 1 week, you ___ resume sexual activity

     After 1 week, gradually increase your activities and 
distance walked as you can tolerate

     No driving until you are no longer taking pain medications

 

CALL THE OFFICE FOR: ___

     Numbness, coldness or pain in lower extremities 

     Temperature greater than 101.5F for 24 hours

     New or increased drainage from incision or white, yellow 
or green drainage from incisions

     Bleeding from groin puncture site

 

FOR SUDDEN, SEVERE BLEEDING OR SWELLING (Groin puncture site or 
incision)

     Lie down, keep leg straight and have someone apply firm 
pressure to area for 10 minutes. If bleeding stops, call 
vascular office. If bleeding does not stop, call ___ for 
transfer to closest Emergency Room. 

 
Followup Instructions:
___